US08106221B2
Step 4. (5)-tert-Butyl 2-(1-allyl-6-chloro-3-oxoisoindolin-1-yl)ethyl(methyl)carbamate
A mixture of (S)-3-allyl-5-chloro-3-(2-(methylamino)ethyl)isoindolin-1-one trifluoroacetic acid salt (220 mg, 0.58 mmol), di-tert-butyl dicarbonate (272 mg, 1.25 mmol) and triethylamine (0.35 mL, 2.49 mmol) in dry THF (10 mL) was stirred at room temperature over night. The reaction mixture was partitioned between brine and ethyl acetate. After separation, the organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (40 g column, 0% ethyl acetate in hexanes to 100% ethyl acetate in hexanes) to give product (120 mg, 57%). 1H NMR (CDCl3) δ 7.72 (d, J=7.9 Hz, 1H), 7.38-7.52 (m, 2H), 5.42-5.58 (m, 1H), 4.98-5.10 (m, 2H), 2.40-3.28 (m, 7H), 2.00-2.18 (m, 2H), 1.40 (s, 9H); MS EI m/z 365 (M+H)+.

reactant | (S)-3-allyl-5-chloro-3-(2-(methylamino)ethyl)isoindolin-1-one trifluoroacetic acid salt | 0.58 mmol, 220 mg | FC(C(=O)O)(F)F.C(C=C)[C@]1(NC(C2=CC=C(C=C12)Cl)=O)CCNC
reactant | di-tert-butyl dicarbonate | 1.25 mmol, 272 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.49 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5)-tert-Butyl 2-(1-allyl-6-chloro-3-oxoisoindolin-1-yl)ethyl(methyl)carbamate | 120 mg, 57% | C(C=C)[C@]1(NC(C2=CC=C(C=C12)Cl)=O)CCN(C(OC(C)(C)C)=O)C | C19H25ClN2O3
